US07943619B2
3-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine
To a solution of (5-methyl-3-phenyl-4-isoxazolyl)methanol (0.50 g, 2.64 mmol) in THF (8 mL) was added sodium hydride (55% dispersion in mineral oil, 0.16 g, 3.17 mmol) at 0° C. The reaction mixture was stirred for 30 min while it was allowed to warm up to room temperature. 3-Chloro-6-methylpyridazine (0.36 g, 2.77 mmol) was added and stirring was continued for 2 h. Water (10 mL) was added and the mixture was extracted with ethyl acetate (40 mL). The combined organic layers were washed with brine (10 mL) and dried over sodium sulfate. Concentration and purification of the residue by chromatography (SiO2, heptane:ethyl acetate=100:0 to 50:50) afforded the title compound (220 mg, 30%) as a yellow oil. MS: m/e=282.3 [M+H]−.

reactant | (5-methyl-3-phenyl-4-isoxazolyl)methanol | 2.64 mmol, 0.50 g | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | sodium hydride | 3.17 mmol, 0.16 g | [H-].[Na+]
reactant | 3-Chloro-6-methylpyridazine | 2.77 mmol, 0.36 g | ClC=1N=NC(=CC1)C | C5H5ClN2
reactant | Water | 10 mL | O | H2O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine | 220 mg, 30% | CC=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C16H15N3O2
